US07462612B2
4-Amino-2-chloro-5-methylpyridine:
Iron (1.0 g) was added to a solution of 2-chloro-5-methyl-4-nitropyridine N-oxide (500 mg, 2.6 mmol) in glacial acetic acid (10 mL). The reaction mixture was then heated at 100° C. for 20 minutes. The suspension was poured onto aqueous NaOH (1M) and extracted with ethyl acetate. After drying over Na2SO4, the solvent was then evaporated and the title compound was isolated as a colorless solid (370 mg, 2.6 mmol, HPLC Rt 1.3 min, FIA ES+ 143.0).

reactant | 2-chloro-5-methyl-4-nitropyridine N-oxide | 2.6 mmol, 500 mg | ClC1=[N+](C=C(C(=C1)[N+](=O)[O-])C)[O-] | C6H5ClN2O3
reactant | NaOH | 1M | [OH-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 1.0 g | [Fe] | Fe
product | 4-Amino-2-chloro-5-methylpyridine | NC1=CC(=NC=C1C)Cl | C6H7ClN2
